US07569536B2
Isoindoline (679 μl, 5.98 mmol, commercially available product) was added at 0° C. to an N,N-dimethylformamide (DMF; 2 ml) solution of 1-fluoro-2-nitro-4-(trifluoromethyl)benzene (508 mg, 2.43 mmol, commercially available product). The resulting mixture was warmed to room temperature and stirred for two hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30 g, hexane/ethyl acetate=15/1). Thus, 2-[2-nitro-4-(trifluoromethyl)phenyl]isoindoline (749 mg, quant.) was yielded as a yellow solid.

reactant | Isoindoline | C1NCC2=CC=CC=C12 | C8H9N
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 1-fluoro-2-nitro-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
solvent | Water | O | H2O
product | 2-[2-nitro-4-(trifluoromethyl)phenyl]isoindoline | 749 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CC2=CC=CC=C2C1 | C15H11F3N2O2
